US07371862B2
To a solution of 5-(1H-pyrrolo[2,3-b]pyridin-3-ylmethylene)-2-thioxoimidazolidin-4-one (500 mg, 2.05 mmol) in 12.6% aq. NaOH (1 mL) and methanol (5 mL), benzyl bromide (430 mg, 2.5 mmol) was added and the reaction mixture stirred at RT for 18 h. Most of the solvent was distilled out and the precipitate was filtered and washed first with water, then with diethylether and dried. The crude material was purified by flash chromatography on silica gel (eluant: dichloromethane/methanol 15:1). Obtained the desired (5Z)-2-(benzylthio)-5-(1H-pyrrolo[2,3-b]pyridin-3-ylmethylene)-3,5-dihydro-4H-imidazol-4-one, as a yellow solid (700 mg, 2 mmol).

reactant | 5-(1H-pyrrolo[2,3-b]pyridin-3-ylmethylene)-2-thioxoimidazolidin-4-one | 2.05 mmol, 500 mg | N1C=C(C=2C1=NC=CC2)C=C2C(NC(N2)=S)=O | C11H8N4OS
reactant | benzyl bromide | 2.5 mmol, 430 mg | C(C1=CC=CC=C1)Br | C7H7Br
solvent | NaOH | 1 mL | [OH-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | (5Z)-2-(benzylthio)-5-(1H-pyrrolo[2,3-b]pyridin-3-ylmethylene)-3,5-dihydro-4H-imidazol-4-one | C(C1=CC=CC=C1)SC1=N\C(\C(N1)=O)=C/C1=CNC2=NC=CC=C21 | C18H14N4OS
